US07268230B2
A mixture of 7-[2-(4-acetylpiperazin-1-yl)ethoxy]-4-chloro-6-methoxyquinazoline (224 mg, 0.61 mmol), (prepared as described for the starting material in Example 28), 5-hydroxy-7-azaindole (91 mg, 0.68 mmol), (prepared as described for the starting material in Example 2), and potassium carbonate (94 mg, 0.68 mmol) in DMA (5 ml) was stirred at 85° C. for 2 hours, allowed to cool to ambient temperature and the solvent evaporated under vacuum. The residue was purified by column chromatography eluting with methylene chloride/methanol (saturated with ammonia) (95/5) to give a white solid. This was triturated with acetone, filtered and dried to give 7-[2-(4-acetylpiperazin-1-yl)ethoxy]-4-(7-azaindol-5-yloxy)-6-methoxyquinazoline (227 mg, 80%).

reactant | 7-[2-(4-acetylpiperazin-1-yl)ethoxy]-4-chloro-6-methoxyquinazoline | 0.61 mmol, 224 mg | C(C)(=O)N1CCN(CC1)CCOC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C17H21ClN4O3
reactant | 5-hydroxy-7-azaindole | 0.68 mmol, 91 mg | OC=1C=C2C=CNC2=NC1 | C7H6N2O
reactant | potassium carbonate | 0.68 mmol, 94 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMA | 5 ml | CC(=O)N(C)C | C4H9NO
product | 7-[2-(4-acetylpiperazin-1-yl)ethoxy]-4-(7-azaindol-5-yloxy)-6-methoxyquinazoline | 227 mg, 80% | C(C)(=O)N1CCN(CC1)CCOC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=CNC2=NC1)OC | C24H26N6O4
